US05900486
To a solution of 650 mg of 3-(tert-butoxycarbonylaminoacetoxy)-6-hydroxymethylbenzoic acid tert-butyl ester and 580 mg of triphenylphosphine was added 848 mg of carbon tetrabromide, and the mixture was stirred for 2 h at room temperature. The mixture was diluted with dichloromethane and washed with water. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo. Column chromatography on silica gel gave 322 mg of 3-(tert-butoxycarbonylaminoacetoxy)-6-(bromomethyl)benzoic acid tert-butyl ester as a colourless oil; 1H-NMR(CDCl3) δ1.34(9H,s), 1.51 (9H,s), 4.08(2H,br.d,J=5.6 Hz), 4.80(2H,s), 4.95(1H,br.s), 7.12(1H,dd,J=8.6,2.6 Hz), 7.34(1H,d,J=8.6 Hz), 7.51(1H,d,J=2.6 Hz)

reactant | 3-(tert-butoxycarbonylaminoacetoxy)-6-hydroxymethylbenzoic acid tert-butyl ester | 650 mg | C(C)(C)(C)OC(C1=CC(=CC=C1CO)OC(CNC(=O)OC(C)(C)C)=O)=O | C19H27NO7
reactant | triphenylphosphine | 580 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 848 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(tert-butoxycarbonylaminoacetoxy)-6-(bromomethyl)benzoic acid tert-butyl ester | 322 mg | C(C)(C)(C)OC(C1=CC(=CC=C1CBr)OC(CNC(=O)OC(C)(C)C)=O)=O | C19H26BrNO6
